Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Vancomycin / Iodine-Iodine Containing / Meropenem / Ceftriaxone 
/ Ciprofloxacin / Flagyl
 
Attending: ___.
 
Chief Complaint:
cough, fever, congestion

 
Major Surgical or Invasive Procedure:
none 

 
History of Present Illness:
Ms. ___ is a ___ F w/hx of AML s/p allo-BMT in ___ 
complicated by GVHD of the skin and lungs, on Prednisone 7.5mg 
daily who presents to the ED with a productive cough, mild 
headache, fevers and nasal congestion over the past 4 days.  
Sore throat has resolved but other symptoms have gradually 
progressed including her cough which is productive of yellow and 
occasionally green sputum.  She had a fever of 100.8 today which 
is what prompted her to come to the ED.  She denies nausea, 
vomitting, diarrhea, muscle aches, dysuria.  She recently (3 
days ago) switched Symbicort to Advair due to feelings of 
anxiety while on Symbicort and these symptoms have resolved.  
She denies chest pain.  She was having occasional palpitations 
on the Symbicort but these have resolved.  She has not been 
eating much and spent all of yesterday on the couch.  She feels 
thirsty and feels as if she is dehydrated.  She denies shortness 
of breath but did have some tightness that resolved with 
Albuterol.
.
She had a recent admisstion ___ with symptoms of 
sinus pressure and was treated with Azithromycin at that time 
and improved.  Nasal washings were negative and CT sinus was 
normal.  She was later seen in clinic on ___ with sinus 
pressure and was again given Azithromycin and symptoms improved. 
 She states that these episodes were unlike her current symptoms 
and she is not having sinus pressure or pain at this time.
.
In the emergency department, initial vitals:  98.7 104 122/65 20 
96%.  She received 1gm of Tylenol and 1L IVF.  CXR was clear.  
Vitals prior to transfer: 98.9 86 104/60 18 97% RA
.
Review of systems:
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denied cough, shortness of breath. Denied chest pain 
or tightness, palpitations. Denied nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denied arthralgias or myalgias. 

 
Past Medical History:
- AML diagnosed ___ on routine bloodwork showing pancytopenia; 
bone marrow biopsy showed myelodysplasia without cytogenetic 
abnormalities
- repeat bone marrow biopsy showed acute erythroleukemia
- admitted ___ for induction 7+3 with cytarabine and 
idarubicin, day 14 marrow showed no blasts
- ___ allogeneic transplantation from an HLA matched sibling 
donor with pentostatin/TBI in ___ c/b mild GVHD
- post-transplant course complicated by STEMI ___ with DES to 
RCA ___ and CABG (LIMA-LAD) ___
- complicated by GVHD of the skin and lungs, on Prednisone 7.5mg 
currently
.
OTHER MEDICAL HISTORY:
- CAD s/p STEMI ___ with DES to RCA ___ and CABG (LIMA-LAD) 
___
- Afib
- Diverticulitis, hx of perforated diverticulum ___ ___ 
complicated by multiple abdominal abscesses; sigmoidostomy with 
___ pouch and colostomy; reversed ___
- CHF with EF 40-45%
Hypertension
- Hypercholesterolemia
- GERD
- Type two diabetes mellitus
- Diverticulosis
- Occasional bronchospasm
- History of SVC clot ___ PORT (s/p course of lovenox)
- History of C.Diff ___ & ___
- History of VRE
- History of Shingles
- History of Asthma
- basal cell carcinoma-s/p electrodessication and curettage on
___
- tonsillectomy at the age of ___;
- D&C for question of some polyps back in ___
.

 
Social History:
___
Family History:
The patient's mother with a history of stroke. Both of her 
maternal and paternal grandmothers also had a history of CVA. 
Father with history of colon ___. No other known history of 
cancer in the family. No known blood disorders. Has a sister 
with ___. She has 2 sisters, the other sister with 
hypertension. 
.

 
Physical Exam:
VS: T97.8 BP 116/72 HR 68 RR 18 96% RA
GENERAL: alert and oriented, NAD
HEENT: No scleral icterus. PERRLA/EOMI. MM slightly dry. OP 
clear with mild pharyngeal erythema but no exudates or tonsilar 
enlargement.  Neck Supple, No LAD.
CARDIAC: RR. Normal S1, S2. No m/r/g. 
LUNGS: CTA B, good air movement biaterally.
ABDOMEN: NABS. Soft, NT, ND.  No HSM
EXTREMITIES: No c/c/e, 2+ dorsalis pedis/ posterior tibial 
pulses.
NEURO: A&Ox3. Appropriate. CN ___ grossly intact. Preserved 
sensation throughout. ___ strength throughout. ___ reflexes, 
equal ___. Gait assessment deferred

 
Pertinent Results:
Admission Labs 

___ 05:40PM   PLT COUNT-195
___ 05:40PM   NEUTS-81.1* LYMPHS-12.0* MONOS-5.4 EOS-0.8 
BASOS-0.6
___ 05:40PM   WBC-10.1 RBC-4.01* HGB-14.3 HCT-40.9 MCV-102* 
MCH-35.8* MCHC-35.0 RDW-14.9
___ 05:40PM   estGFR-Using this
___ 05:40PM   GLUCOSE-225* UREA N-12 CREAT-1.1 SODIUM-136 
POTASSIUM-4.3 CHLORIDE-100 TOTAL CO2-24 ANION GAP-16
.
Discharge Labs 

___ 04:55AM BLOOD WBC-5.1 RBC-3.65* Hgb-12.9 Hct-38.1 
MCV-104* MCH-35.4* MCHC-34.0 RDW-14.4 Plt ___
___ 06:36AM BLOOD WBC-6.3 RBC-3.67* Hgb-12.5 Hct-38.2 
MCV-104* MCH-34.2* MCHC-32.9 RDW-14.4 Plt ___
___ 04:55AM BLOOD Neuts-48.7* ___ Monos-10.8 
Eos-3.1 Baso-0.3
___ 06:36AM BLOOD Neuts-51.9 ___ Monos-10.2 Eos-2.0 
Baso-0.2
___ 04:55AM BLOOD Glucose-121* UreaN-11 Creat-0.9 Na-145 
K-4.0 Cl-111* HCO3-24 AnGap-14
___ 06:36AM BLOOD Glucose-108* UreaN-10 Creat-0.8 Na-143 
K-3.9 Cl-109* HCO3-25 AnGap-13
___ 04:55AM BLOOD Calcium-8.3* Mg-2.1
___ 06:36AM BLOOD Calcium-8.1* Phos-2.7 Mg-1.5*
.
Reports 
___ CXR 
1. No acute cardiopulmonary pathology. 
2. Stable thoracic aortic double contour, consistent with known 
pseudoaneurysm. 
.
Micro: 

 
Brief Hospital Course:
Ms. ___ is a ___ year old woman w/hx of AML s/p allo-SCT c/b 
GVHD of the lungs who presented with congestion and cough.
.
#.  Congestion/Cough:  Most likely was caused by a viral URI.  
She reported feeling much better since getting Tylenol and IVF 
in the ED.  Given her hx of SCT and current Prednisone use, she 
is more susceptible to atypical and fungal infections.  She was 
not on PCP prophylaxis on admission but has no symptoms or signs 
of PCP ___. She had a ambulatory oxygen saturation of 
above 94% on ambulation on the day of discharge. No symptoms or 
concerning features for fungal or sinus infection.
.
#. Hx of AML s/p BMT c/b GVHD. Was not active. Continued 
prednisone, continued Singulair, Advair and  Albuterol standing 
PRN with  Acyclovir prophylaxis
.
#. CAD s/p STEMI with decreased EF:Continued aspirin 162mg, 
continued b-blocker, ACE and statin
.
#. Hx of DM: held metformin while in-house and restarted on 
discharge.
.
Outpatient follow up
The patient has been on pentamidine as outpatient in the past 
for PCP ___. Possibly needs to be restarted on PCP 
prophylaxis given chronic steroid treatment.
 
Medications on Admission:
Acyclovir 400mg PO BID
Alubterol HFA ___ puffs PRN
Alendronate 70mg PO qweek
Lipitor 80mg PO daily
Advair 250/50 1 puff BID
Lisinopril 2.5mg PO daily
Ativan 0.5mg ___ tabs q4H PRN nausea
Metformin 1000mg PO BID
Toprol XL 25mg PO daily
Singulair 10mg PO daily
Prednisone 7.5mg PO daily
ASA 162mg PO daily
Calcium 600mg PO daily
Vitamin D 1000 IU PO daily
Omeprazole 20mg PO BID

 
Discharge Medications:
1. acyclovir 400 mg Tablet Sig: One (1) Tablet PO Q12H (every 12 
hours).  
2. albuterol sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1)  Inhalation Q6H (every 6 hours) as 
needed for SOB, wheeze.  
3. alendronate 70 mg Tablet Sig: One (1) Tablet PO once a week.  

4. atorvastatin 40 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
5. fluticasone-salmeterol 250-50 mcg/dose Disk with Device Sig: 
One (1) Disk with Device Inhalation BID (2 times a day).  
6. lisinopril 5 mg Tablet Sig: 0.5 Tablet PO DAILY (Daily).  
7. lorazepam 0.5 mg Tablet Sig: ___ Tablets PO every four (4) 
hours as needed for nausea.  
8. metformin 1,000 mg Tablet Sig: One (1) Tablet PO twice a day. 
 
9. metoprolol succinate 25 mg Tablet Extended Release 24 hr Sig: 
One (1) Tablet Extended Release 24 hr PO DAILY (Daily).  
10. montelukast 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
11. prednisone 5 mg Tablets, Dose Pack Sig: 1.5 Tablets, Dose 
Packs PO DAILY (Daily): 7.5 mg daily .  
12. aspirin 81 mg Tablet, Chewable Sig: Two (2) Tablet, Chewable 
PO DAILY (Daily).  
13. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO BID (2 times a day).  
14. Calcium 600 600 mg (1,500 mg) Tablet Sig: One (1) Tablet PO 
once a day.  
15. Vitamin D 1,000 unit Tablet Sig: One (1) Tablet PO once a 
day.  
16. azithromycin 250 mg Tablet Sig: One (1) Tablet PO Q24H 
(every 24 hours) for 3 days: Please take until ___ .
Disp:*3 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Viral Upper Respiratory Infection 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure to care for you as your doctor.
.
You were brought to the hospital because of a cough and fever. 
After some tests we determined your symptoms to most likely be 
caused by a viral upper respiratory infection. Your symptoms 
have improved with a antibiotic called Azithromycin. 
.
Please continue to take Azithromycin for 3 more days until ___. 

.
We made no other changes to your home medication list, please 
continue to take this medications as you were before coming to 
the hospital.
.
Please follow up with the outpatient appointments below.
 
Followup Instructions:
___